2193-03-17 07:21:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 **] yo female with h/o HTN, anxiety, gout, who presents
   with abdominal pain, nausea, and vomiting with RUQ revealing
   cholecystitis with obstructing stone and CBD dilatation
   24 Hour Events:
 ENDOSCOPY - At [**2193-3-16**] 11:00 AM
   ERCP in endoscopy suite
   -ERCP today, stones and pus removed, s/p sphincterotomy.  Received
   dexmedetomidate and propofol pressures dropped to 60s-70s.  Got neo
   peripherally in GI suite.  Bolused 3L with interval improvement in UOP
   and SBP.
   - GI recs advance to clears when BP stabilized.  Continue abx x 7 days.
   -2 sets blood cultures, 4/4 bottles + GNRs this am
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-3-16**] 11:00 AM
   Metronidazole - [**2193-3-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-3-16**] 08:00 AM
   Other medications:
   Colace
   Flagyl
   Cipro
   Eye gtts
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: mild abd tenderness with palpation.  Otherwise
   feeling well, no SOB or other complaints, asking to eat/drink
   Flowsheet Data as of  [**2193-3-17**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 34.8
C (94.7
   HR: 73 (60 - 86) bpm
   BP: 110/46(62) {78/33(44) - 114/66(73)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,188 mL
                                                                  1,277 mL
   PO:
             TF:
   IVF:
                                                                  6,188 mL
                                                                  1,277 mL
   Blood products:
   Total out:
                                                                  1,029 mL
                                                                    190 mL
   Urine:
                                                                  1,029 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,159 mL
                                                                  1,087 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), 2/6 systolic murmur best heard at base
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left posterior base), otherwise CTA bilaterally
   Abdominal: Soft, Bowel sounds present, minimal tenderness of RUQ to
   deep palpation, negative [**Doctor Last Name **]
s, no rebound/guarding.
   Extremities: Distal pulses present, no edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A/O x 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   84 K/uL
   9.9 g/dL
   96 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.7 mEq/L
   24 mg/dL
   113 mEq/L
   138 mEq/L
   27.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:31 AM
                             [**2193-3-16**]  03:53 PM
                             [**2193-3-17**]  04:15 AM
                             [**2193-3-17**]  06:00 AM
   WBC
   8.9
   14.6
   Hct
   29.3
   25.1
   27.7
   Plt
   141
   84
   Cr
   1.0
   1.0
   0.9
   Glucose
   92
   92
   96
   Other labs: PT / PTT / INR:15.8/30.5/1.4, ALT / AST:414/442, Alk Phos /
   T Bili:221/3.1, Amylase / Lipase:31/13, Differential-Neuts:79.0 %,
   Band:10.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.0
   mmol/L, Albumin:2.6 g/dL, LDH:187 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   Micro: 4/26 4/4 bottles (2 sets) + GNR
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with h/o HTN, anxiety, gout, who presents with
   abdominal pain, nausea, and vomiting with RUQ revealing cholecystitis
   with obstructing stone and CBD dilatation
   1) Cholangitis: Likely the patient's pain a few weeks ago was also
   secondary to passing a gallstone.  Her symptoms, fever, and exam are
   all consistent with cholangitis.  S/p ERCP with sphincterotomy, removal
   of stones and passage of purulent fluid.  Pt now bacteremic with GNRs,
   likely biliary source.  Marked Leukocytosis with 10% bandemia
   - will treat with cipro/flagyl for cholangitis/bacteremia for planned
   14 day course
   - s/p ERCP yesterday with stone/pus removal, sphincterotomy, f/u GI
   recs
   - Will likely need cholecystectomy at some point once cholecystitis
   resolved
   - cont to trend LFTs, all trending down except tbili
   - trial of clears this am, consider advance per GI recs
   - antiemetics, analgesics PRN
   - repeat lactate- likely elevated in the setting of intravascular
   volume depletion, was down this am after fluid resuscitation last
   night.
   - low platelets in setting of sepsis, check DIC labs.  Keep active T&S
   2)Hypotension.  Had held anti-hypertensive meds peri ERCP.  In ERCP
   suite pt became hypotensive in the setting of receiving propofol,
   dexmedetomidate. Temporarily placed on peripheral neo for procedure and
   transfer to floor.  Bolused throughout the day and evening with
   improvement, MAPs ~60-65.  UOP stayed around 30cc/hour.  Pt without
   complaint.  Mentating well the entire time.  Ddx includes shock due to
   transient bacteremia from ERCP/cholangits, hypovolemia, or result of
   sedatives, although less likely given persistence of hypotension.
   Given pt's fluid responsiveness, opted not to place CVL.  Unable to
   obtain repeat lactate last night, repeat this am improved, encouraging
   data that pt not ischemic.
   - Bolus for MAP <60, UOP <30
   -If not fluid responsive will need CVL for possible pressors, currently
   is responding well and stable.
   -Continue antibtiotics, follow up cultures
   -continue to hold anti-hypertensives
   3) Anxiety
   - ativan PRN, try to use sparingly
   4) F/E/N:
   - trial of clears
   - IVFs as above
   - replete lytes PRN
   5) PPx:
   - pneumoboots; will hold hep SC for platelets <100
   - PPI
   6) Access: PIV
   7) DNR/DNI per patient- will d/w  daughter as well
   8) Contact: Daughter
   9) DISPO: ICU today, call out when BP stable
   ICU Care
   Nutrition: advancing to clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-3-16**] 05:02 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-03-17 09:31:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2193-3-16**] 11:00 AM
   ERCP in endoscopy suite
   Hypotension post procedure--response to 3.5 liters IVF with improvement
   Oliguria noted but with slow response to IVF.
   Blood cultures positive from yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-3-16**] 11:00 AM
   Metronidazole - [**2193-3-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2193-3-17**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 68 (60 - 86) bpm
   BP: 98/50(61) {78/33(44) - 114/66(73)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,188 mL
                                                                  1,340 mL
   PO:
             TF:
   IVF:
                                                                  6,188 mL
                                                                  1,340 mL
   Blood products:
   Total out:
                                                                  1,029 mL
                                                                    250 mL
   Urine:
                                                                  1,029 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,159 mL
                                                                  1,090 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Tender: Improved RUQ tenderness
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   84 K/uL
   96 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.7 mEq/L
   24 mg/dL
   113 mEq/L
   138 mEq/L
   27.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:31 AM
                             [**2193-3-16**]  03:53 PM
                             [**2193-3-17**]  04:15 AM
                             [**2193-3-17**]  06:00 AM
   WBC
   8.9
   14.6
   Hct
   29.3
   25.1
   27.7
   Plt
   141
   84
   Cr
   1.0
   1.0
   0.9
   Glucose
   92
   92
   96
   Other labs: PT / PTT / INR:15.8/30.5/1.4, ALT / AST:414/442, Alk Phos /
   T Bili:221/3.1, Amylase / Lipase:31/13, Differential-Neuts:79.0 %,
   Band:10.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.0
   mmol/L, Albumin:2.6 g/dL, LDH:187 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   Fluid analysis / Other labs: Anaerobic bottles positive on GS positive
   for GP organisms
   Assessment and Plan
   [**Age over 90 **] yo female with admission with cholangitis and obstructing stone on
   CBD now s/p ERCP with stone removal and sphincterotomy with post
   procedure hypotension complicating procedure.  This is clearly related
   to bactermia and with significant SIRS and sepsis following procedure.
   This is in evidence by rising WBC count as well as positive blood
   culture results.  With procedure completed and obstruction relieved we
   have reasonable hope that drainage of primary insult will contribute to
   rapid resolution of sepsis.
   1)Sepsis-Secondary to biliary source and has GNR
s seen on blood
   cultures-
   -Continue Cipro/Flagyl
   -IVF reasonable with current volume status appropriate.
   -Maintain po intake
   2)Cholelithiasis-
   -Drainage completed
   -Will need eval for CCY in future
   -ABX as above and will be extended to two week course given significant
   bacteremia
   3)Oliguria
This is in the setting of sepsis but  with relative
   stability of creatinine
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-3-16**] 05:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2193-03-18 12:50:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 **] yo female with h/o HTN, anxiety, gout, who presents
   with abdominal pain, nausea, and vomiting with RUQ revealing
   cholecystitis with obstructing stone and CBD dilatation
   24 Hour Events:
 ENDOSCOPY - At [**2193-3-16**] 11:00 AM
   ERCP in endoscopy suite
   -ERCP yesterday, stones and pus removed, s/p sphincterotomy.  Received
   dexmedetomidate and propofol pressures dropped to 60s-70s.  Got neo
   peripherally in GI suite.  Bolused 3L with interval improvement in UOP
   and SBP.
   - GI recs advance to clears when BP stabilized.  Continue abx x 7 days.
   -2 sets blood cultures, 4/4 bottles + GNRs this am
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2193-3-18**] 07:29 AM
   Ciprofloxacin - [**2193-3-18**] 12:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-3-18**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 91 (77 - 143) bpm
   BP: 113/49(63) {103/45(63) - 146/68(88)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,235 mL
                                                                    919 mL
   PO:
                                                                  1,320 mL
                                                                    460 mL
   TF:
   IVF:
                                                                  1,915 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    562 mL
   Urine:
                                                                    800 mL
                                                                    562 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,435 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   10.4 g/dL
   73 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.6 mEq/L
   22 mg/dL
   110 mEq/L
   137 mEq/L
   30.5 %
   16.2 K/uL
        [image002.jpg]
                             [**2193-3-16**]  05:31 AM
                             [**2193-3-16**]  03:53 PM
                             [**2193-3-17**]  04:15 AM
                             [**2193-3-17**]  06:00 AM
                             [**2193-3-17**]  08:17 PM
                             [**2193-3-18**]  04:45 AM
   WBC
   8.9
   14.6
   16.2
   Hct
   29.3
   25.1
   27.7
   30.5
   Plt
   141
   84
   114
   101
   Cr
   1.0
   1.0
   0.9
   0.9
   Glucose
   92
   92
   96
   73
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:291/182, Alk Phos /
   T Bili:244/1.6, Amylase / Lipase:40/39, Differential-Neuts:79.0 %,
   Band:10.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:577 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:181 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with h/o HTN, anxiety, gout, who presents with
   abdominal pain, nausea, and vomiting with RUQ revealing cholecystitis
   with obstructing stone and CBD dilatation
   1) Cholangitis: Likely the patient's pain a few weeks ago was also
   secondary to passing a gallstone.  Her symptoms, fever, and exam are
   all consistent with cholangitis.  S/p ERCP with sphincterotomy, removal
   of stones and passage of purulent fluid.  Pt now bacteremic with GNRs,
   likely biliary source.  Marked Leukocytosis with 10% bandemia
   - will treat with cipro/flagyl for cholangitis/bacteremia for planned
   14 day course after negative blood cx
   - s/p ERCP with stone/pus removal, sphincterotomy, f/u GI recs
   - hold off CCY per surgery recs
   - cont to trend LFTs, all trending down
   - trial of clears yesterday, advance today
   - antiemetics, analgesics PRN
   2)Hypotension.  Had held anti-hypertensive meds peri ERCP.  In ERCP
   suite pt became hypotensive in the setting of receiving propofol,
   dexmedetomidate. Temporarily placed on peripheral neo for procedure and
   transfer to floor.  Bolused throughout the day and evening with
   improvement, MAPs ~60-65.  UOP stayed around 30cc/hour.  Pt without
   complaint.  Mentating well the entire time.  Ddx includes shock due to
   transient bacteremia from ERCP/cholangits, hypovolemia, or result of
   sedatives, although less likely given persistence of hypotension.
   Given pt's fluid responsiveness, opted not to place CVL.  Unable to
   obtain repeat lactate last night, repeat this am improved, encouraging
   data that pt not ischemic.
   - Bolus for MAP <60, UOP <30
   - start low dose lopressor
   -Continue antibtiotics, follow up cultures
   3) Atrial fibrillation
   - new onset, had 4.5 sec pause with amiodarone, had 2 sec pause prior
   to starting amiodarone. Spoke with Dr. [**First Name4 (NamePattern1) 2430**] [**Last Name (NamePattern1) 2431**] her outpatient
   cardiologist who would like to opt for rate control, hold off on
   anticoagulation given she has recent infection on top of borderline LAE
   to account for going into afib. Will d/c amiodarone and start low dose
   lopressor.
   4) F/E/N:
   - trial of advancing diet
   - IVFs as above
   - replete lytes PRN
   5) PPx:
   - pneumoboots; will hold hep SC for platelets <100
   - PPI
   6) Access: PIV
   7) DNR/DNI per patient- will d/w  daughter as well
   8) Contact: Daughter
   9) DISPO: call out to floor today
   ICU Care
   Nutrition: advancing to clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-3-16**] 05:02 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:floor